US07601716B2
(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-(4-phenylpiperidin-1-yl)methanone
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-phenylpiperidine as in General Procedure 10 to give the title compound. LCMS: m/z=590.98 (M+H+); retention time=1.03 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | (3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-(4-phenylpiperidin-1-yl)methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C=CC3)C(=O)N3CCC(CC3)C3=CC=CC=C3)C1)C(F)(F)F | C33H30ClF3N4O
